US08202873B2
4-(3-Bromo-propyl)-1-methyl-1H-pyrazole
Dissolve 3-(1-methyl-1H-pyrazol-4-yl)-propan-1-ol (0.250 g, 1.783 mmol) in dry chloroform (15 mL). Add PS-triphenylphosphine resin (1.824 g, 3.923 mmol) and carbon tetrabromide (0.650 g, 1.961 mmol). Stir at room temperature under nitrogen for 3 hr. Filter reaction over paper with DCM. Concentrate filtrate in vacuo to obtain the title preparation (0.362 g, 100% yield). GC-MS (m/z): 202/204(M+), 95.

reactant | 3-(1-methyl-1H-pyrazol-4-yl)-propan-1-ol | 1.783 mmol, 0.250 g | CN1N=CC(=C1)CCCO | C7H12N2O
reactant | triphenylphosphine resin | 3.923 mmol, 1.824 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | carbon tetrabromide | 1.961 mmol, 0.650 g | C(Br)(Br)(Br)Br | CBr4
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-Bromo-propyl)-1-methyl-1H-pyrazole | 100% yield | BrCCCC=1C=NN(C1)C | C7H11BrN2
